US07250429B2
2-(tert-Butoxycarbonyl)aminomethyl-1,3-dithiolan
At room temperature, di-tert-butyl dicarbonate (1.69 g) was added to an ethyl acetate (15 ml) solution of 1,3-dithiolan-2-ylmethylamine (1.0 g) and stirred at room temperature for a whole day and night. After completion of the reaction, the reaction mixture was separated using a mixed solution of ethyl acetate and water. The organic layer was washed with water and saturated brine, dried with anhydrous sodium sulfate and then concentrated under a reduced pressure to obtain the title compound (1.85 g).

reactant | di-tert-butyl dicarbonate | 1.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,3-dithiolan-2-ylmethylamine | 1.0 g | S1C(SCC1)CN | C4H9NS2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-(tert-Butoxycarbonyl)aminomethyl-1,3-dithiolan | 1.85 g | C(C)(C)(C)OC(=O)NCC1SCCS1 | C9H17NO2S2
